US06333324B1
A solution of (2R)-1-tert-butoxycarbonyl-4-methanesulfonylpiperazine-2-carboxylic acid (2.90 g) in 4N HCl-AcOEt solution (40 ml) was stirred at room temperature for 30 minutes. The solution was concentrated in vacuo and the residue was solidified with Et2O to give 2.15 g of (2R)-4-methanesulfonylpiperazine-2-carboxylic acid hydrochloride as a powder.

reactant | (2R)-1-tert-butoxycarbonyl-4-methanesulfonylpiperazine-2-carboxylic acid | 2.90 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)S(=O)(=O)C)C(=O)O | C11H20N2O6S
reactant | HCl AcOEt | 4N, 40 ml | Cl.CCOC(=O)C
product | (2R)-4-methanesulfonylpiperazine-2-carboxylic acid hydrochloride | 2.15 g | Cl.CS(=O)(=O)N1C[C@@H](NCC1)C(=O)O | InChI=1S/C6H12N2O4S.ClH/c1-13(11,12)8-3-2-7-5(4-8)6(9)10;/h5,7H,2-4H2,1H3,(H,9,10);1H/t5-;/m1./s1
